US07491829B2
Step 3: Preparation of (E)-5-bromo-2,3-dihydroinden-1-one O-benzyl oxime:
To 5-bromoindanone (5.66 g) in 60 mL ethanol was added 5.57 g O-benzylhydroxylamine hydrochloride and 3.2 mL pyridine. The mixture was stirred at ambient temperature for 5 hours. The volatiles were removed under vacuum and the solid residue partitioned between saturated aqueous sodium bicarbonate and ethyl acetate. The ethyl acetate was washed with brine, dried over magnesium sulfate, filtered, and evaporated under vacuum to afford crude product as an amber oil. The crude material was crystallized from hexane to afford 5.43 g (84% yield) light tan solid. 1H NMR (CDCl3) was consistent with the desired product. LC/MS indicated a single peak with a M+1 molecular ion of m/z 318.1 by positive ESI.

reactant | 5-bromoindanone | 5.66 g | BrC=1C=C2CCC(C2=CC1)=O | C9H7BrO
reactant | O-benzylhydroxylamine hydrochloride | 5.57 g | Cl.C(C1=CC=CC=C1)ON
reactant | pyridine | 3.2 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | (E)-5-bromo-2,3-dihydroinden-1-one O-benzyl oxime | 84% yield | C(C1=CC=CC=C1)O\N=C\1/CCC2=CC(=CC=C12)Br | C16H14BrNO
